Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: ___ pain/discharge.  
 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
___ year old otherwise healthy male who presents with Right ___ 
redness and swelling. Patient works as a ___, yesterday 
had a glass explode near him but did not feel any ___ pain. 
Today awoke with right ___ pain, swelling, discharge. Came into 
ED when pain in right ___ intensified and shut closed with pus. 
He wears contacts and has had lenses in for last week. He has 
already removed contacts. No fevers or chills. Left ___ not 
painful and with normal ___ movements. He denies any recent URI 
sx (runny nose, cough, flu-like symptoms). He lives with 2 
roomates who do not have any red eyes/sick. No dysuria or penile 
discharge. Full sexual history below.  

 
Past Medical History:
MEDICAL & SURGICAL HISTORY: 
-___ abscess ___ s/p drainage; was faxed 
records from ___, but no culture data could be obtained
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VS:  98 133 / 67 102 20 96 RA 
GEN: Alert, lying in bed, in moderate pain
HEENT: Right periorbital swelling, matted lashes, purulent 
discharge, shut closed. Mild TTP around orbit. Left ___ open, 
able to track finger without any pain, no discharge or 
conjunctival erythema. 
NECK: Supple without LAD 
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema
GU: No ulcers, lesions, rashes, or erythema in genital area. 
Penile meatus/urethra without any visible discharge or erythema. 
   
NEURO: CN II-XII grossly intact (*cannot assess cranial nerve 
function in the right ___, which is shut closed); motor function 
grossly normal  

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 98, 97.7, 115/34 (133/67), 77, 20, 99 RA  
GEN: Alert, lying in bed, in moderate pain
HEENT: Right periorbital swelling, matted lashes, purulent 
discharge, ___ is open, appears to a subconjunctival hemhorrage. 
Mild TTP around orbit. Able to track finger without any pain in 
both eyes. Left ___ unremarkable. 
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema
NEURO: CN II-XII grossly intact; motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
==============

___ 06:40AM BLOOD Neuts-66 Bands-0 ___ Monos-5 Eos-3 
Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-7.06* AbsLymp-2.78 
AbsMono-0.54 AbsEos-0.32 AbsBaso-0.00*
___ 06:40AM BLOOD WBC-10.7* RBC-5.46 Hgb-16.8 Hct-50.4 
MCV-92 MCH-30.8 MCHC-33.3 RDW-11.8 RDWSD-40.0 Plt ___
___ 06:40AM BLOOD Glucose-78 UreaN-8 Creat-1.0 Na-142 K-4.6 
Cl-101 HCO3-23 AnGap-23*
___ 06:49AM BLOOD Lactate-1.6

DISCHARGE LABS
==============
___ 06:34AM BLOOD WBC-7.8 RBC-4.88 Hgb-15.4 Hct-45.4 MCV-93 
MCH-31.6 MCHC-33.9 RDW-12.0 RDWSD-41.0 Plt ___
___ 06:34AM BLOOD Glucose-71 UreaN-13 Creat-0.9 Na-140 
K-4.3 Cl-100 HCO3-26 AnGap-18
___ 06:34AM BLOOD Calcium-8.6 Phos-4.6* Mg-2.2

MICRO
=====

___ 10:30 am ___      RIGHT CONJUNCTIVA. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 

   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING. 

IMAGING
=======
___
CT ORBITS, SELLA & IAC W/ CONT
IMPRESSION:  
Moderate right preseptal and infraorbital soft tissue prominence 
and 
stranding, consistent with preseptal cellulitis.  No radiopaque 
foreign body identified.  Small preseptal fluid collection may 
be present, but is difficult to fully assess for given lack of 
intravenous contrast. 

 
Brief Hospital Course:
21 otherwise healthy male admitted for painful purulent right 
___ with surrounding soft tissue swelling. No fevers or 
proptosis. CT of the orbits showed pre-septal cellulitis around 
R ___ and no evidence of foreign bodies or orbital cellulitis. 
Left ___ was unremarkable.

# Hyperpurulent conjunctivitis OD: Given copious discharge and 
rapid progression ___ hrs), suspicion for gonnococcal 
origin. Gram stain of purulent fluid from right ___ was positive 
for 2+ gram negative diplococci, GPC, and PMNs. Ophtho evaluated 
and there was no evidence of corneal involvement, however, given 
that gonoccocal conjunctivitis can rapidly involve cornea if not 
treated adequately, he was admitted for empiric treatment of 
gonococcal conjuncitivitis and monitoring. He received 1 dose 
of: Piperacillin-Tazobactam 4.5 g, Vancomycin, CeftriaXONE 1 gm, 
and 1000 mg Azithromycin 1000 mg. This patient's right ___ 
swelling and purulence decreased remarkably 12 hours after 
getting ABX.  Ophthalmology saw him on day of discharge and gave 
very specific recommendations regarding ___ drops (apply Q2h).  
We ensured that the patient will be staying with his mom, an RN, 
who will ensure the drops are used... Ophthalmology will also 
see the patient on day after discharge to ensure improvement.
-Apply Ciprofloxacin ___ drops every 2 hours, including at night
-Saline irrigation every ___ hours to right ___ until discharge 
resolves; avoid cross-contamination to other ___ while 
irrigating your right ___ 
- follow up on ___ with optho

# Preseptal cellulitis of Right - 7 day course of Bactrim 2 tabs 
DS BID and Amoxicillin 875 BID. 

The patient will be staying with his mom who is a ___ and felt 
he could be 100% adherent with treatment. Risks of not complying 
with treatment, including but not limited to worsening 
infection, damage to ___ structures, and vision loss, were 
discussed with the patient at length. 

TRANSITIONAL:
# Health maintenance: Urine GC/Ch testing, as well as RPR, HIV, 
and HepC. Pending at time of discharge. 

CORE MEASURES:
# CODE STATUS: Full, presumed
# CONTACT: Dad ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth three times a day Disp #*90 Tablet Refills:*3 

2.  Amoxicillin 875 mg PO Q12H Duration: 7 Days 
RX *amoxicillin 875 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Ciprofloxacin 0.3% Ophth Soln ___ DROP RIGHT ___ Q2H 
RX *ciprofloxacin HCl 0.3 % 1 drops ___ Q2H Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0 
5.  Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Hyperpurulent acute conjunctivitis
Pre-septal cellulitis

SECONDARY DIAGNOSES:
None

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

___ were admitted for a purulent and painful infection of your 
right ___. A sample of the purulent fluid was taken and it was 
determined that ___ had a bacterial infection of your ___ and 
the skin around the ___. An ___ specialist did a full exam of 
your ___, which revealed no evidence of deep infection at this 
time. ___ were treated with antibiotics, received ___ drops and 
saline in your right ___, and pain was managed with Tylenol and 
Oxycodone. 

Some of your lab tests are pending on admission and results will 
be communicated to ___ once they return.

It is VERY important to follow the instructions below and attend 
your follow-up appointment with Dr. ___ on ___. 
See below for details.

At home, continue to:
-Apply Ciprofloxacin ___ drops every 2 hours, including at night
-Saline irrigation every ___ hours to right ___ until discharge 
resolves; avoid cross-contamination to other ___ while 
irrigating your right ___ 
-THROW AWAY your old contact lenses and do not wear contact 
lenses until ophthalmologist talks to ___
-Take Tylenol and Oxycodone as needed for pain control 
-Practice good hand hygiene (wash often)
-Take the full course of antibiotics prescribed to ___ (Bactrim 
and Amoxicillin) 

___ will see Dr. ___ at ___ 
___, ___ First floor, ___ at 2:00 
p.m. on ___ (tomorrow!). 

If ___ have worsening of vision, pain on ocular movements, or 
any changes that concern ___, CALL Dr. ___: 
___. It is also VERY important to monitor the swelling 
around your ___. If the redness around your right ___ does not 
continue to get better by ___, please return 
immediately to the ED.   

Thank ___ for seeking care at ___.

Warmly,
Your ___ Team
 
Followup Instructions:
___